US20010049381A1
3-Phenyl-1-propyl (2S)-1-(3,3-dimethyl-1,2-dioxopentyl)-2-pyrrolidinecarboxylate (1)
A mixture of (2S)-1-(1,2-dioxo-3,3-dimethylpentyl)-2-pyrrolidine-carboxylic acid (600 mg; 2.49 mmol), 3-phenyl-1-propanol (508 mg; 3.73 mmol), dicyclohexylcarbodiimide (822 mg; 3.98 mmol), camphorsulfonic acid (190 mg; 0.8 mmol) and 4-dimethylaminopyridine (100 mg; 0.8 mmol) in methylene chloride (20 ml) was stirred overnight under a nitrogen atmosphere. The reaction mixture was filtered through Celite to remove solids and concentrated in vacuo, and the crude material was purified on a flash column (25% ethyl acetate in hexane) to obtain 720 mg (80%) of the compound of Example 14 as a colorless oil. 1H NMR (CDCl3): d 0.84 (t, 3H); 1.19 (s, 3H); 1.23 (s, 3H); 1.70 (dm, 2H); 1.98 (m, 5H); 2.22 (m, 1H); 2.64 (m, 2H); 3.47 (m, 2H); 4.14 (m, 2H); 4.51 (d, 1H); 7.16 (m, 3H); 7.26 (m, 2H)

reactant | (2S)-1-(1,2-dioxo-3,3-dimethylpentyl)-2-pyrrolidine-carboxylic acid | 2.49 mmol, 600 mg | O=C(C(C(CC)(C)C)=O)N1[C@@H](CCC1)C(=O)O | C12H19NO4
reactant | 3-phenyl-1-propanol | 3.73 mmol, 508 mg | C1(=CC=CC=C1)CCCO | C9H12O
reactant | dicyclohexylcarbodiimide | 3.98 mmol, 822 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | camphorsulfonic acid | 0.8 mmol, 190 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
catalyst | 4-dimethylaminopyridine | 0.8 mmol, 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-Phenyl-1-propyl (2S)-1-(3,3-dimethyl-1,2-dioxopentyl)-2-pyrrolidinecarboxylate | 720 mg, 80% | CC(C(C(=O)N1[C@@H](CCC1)C(=O)OCCCC1=CC=CC=C1)=O)(CC)C | C21H29NO4
